US08835462B2
A solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-((tert-butyldimethylsilyl)oxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (120 mg, 0.24 mmol) in a solution of HF/pyridine/THF (5:3:8 ratio, 1.2 mL) was stirred at room temperature. After 16 h, an additional 0.1 mL HF-pyridine solution was added and the reaction was allowed to stir for 2 h. The crude reaction was diluted with EtOAc (5 mL) and added to sat'd aq Na2CO3 (5 mL) dropwise. Additional sat'd aq Na2CO3 was added until bubbling was no longer observed. The EtOAc layer was separated and the aqueous phase was extracted with EtOAc (2×). The combined organic layers were dried over Na2SO4, filtered, and concentrated to furnish tert-butyl-(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-ylcarbamate as a colorless oil (82 mg, 89%): 1H NMR (400 MHz, CDCl3) δ 7.32-7.26 (m, 3H), 7.20 (dd, J=8.2, 6.4 Hz, 2H), 5.15 (d, J=8.5 Hz, 1H), 4.88 (m, 1H), 4.65 (d, J=7.6 Hz, 1H), 3.90 (dd, J=11.7, 7.5 Hz, 1H), 3.57 (d, J=10.3 Hz, 1H), 3.44 (m, 2H), 3.33 (m, 1H), 3.11 (dd, J=13.8, 4.3 Hz, 1H), 2.49 (m, 1H), 1.87 (s, 1H), 1.48 (d, J=6.4 Hz, 3H), 1.43 (d, J=4.3 Hz, 9H); ESIMS m/z 378.4 ([M−H]).

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-((tert-butyldimethylsilyl)oxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 0.24 mmol, 120 mg | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O[Si](C)(C)C(C)(C)C)C)=O)NC(OC(C)(C)C)=O | C26H43NO6Si
reactant | pyridine THF | 1.2 mL | N1=CC=CC=C1.C1CCOC1
reactant | HF-pyridine | 0.1 mL | C1=CC=NC=C1.F
reactant | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | tert-butyl-(3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-ylcarbamate | 82 mg, 89% | C(C)(C)(C)OC(N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)CC1=CC=CC=C1)O)C)=O)=O | C20H29NO6
